US08580976B2
To a 250 mL flask equipped with magnetic stirring is added 100 mL of diethyl ether and 2-ethylbenzofuran (20.00 g, 136.8 mmol). The reaction flask is cooled to 0° C. and bromine (8.40 mL, 164.2 mmol) is added to an addition funnel containing 50 mL of ethyl acetate. The mixture is added dropwise to the reactor while maintaining the 0° C. temperature. The addition funnel is rinsed with an additional 20 mL of ethyl acetate. The resulting mixture is stirred for 2 hours and the temperature maintained at 0° C. The reaction is quenched with 50 mL of water. The contents of the reactor are then transferred to a 1 L separatory funnel and rinsed with 2×50 mL of water. The organic layers are combined and rinsed with 200 mL of a saturated sodium thiosulfate solution. The layers are separated and the organic layer is dried over MgSO4 to give an amber colored solution. The solvent is removed in vacuo to give the product, 3-bromo-2-ethylbenzofuran, as a pale yellow liquid which is used without further purification (yield: 27.1 g, 88 percent).

reactant | diethyl ether | 100 mL | C(C)OCC | C4H10O
reactant | 2-ethylbenzofuran | 136.8 mmol, 20.00 g | C(C)C=1OC2=C(C1)C=CC=C2 | C10H10O
reactant | bromine | 164.2 mmol, 8.40 mL | BrBr | Br2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 3-bromo-2-ethylbenzofuran | BrC1=C(OC2=C1C=CC=C2)CC | C10H9BrO
